US05128355
Part C: Preparation of 5-t-Butyldimethylsiloxymethyl-1-[(2'-carbomethoxybiphenyl-4-yl)-methyl]-4-chloro-2-(cis-pent-1-en-1-yl)-imidazole
5-t-Butyldimethylsilyloxymethyl-1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-4-chloroimidazole-2-carboxaldehyde (200 mg) was added all at once to a solution of n-butyltriphenylphosphonium bromide (0.26 g) and potassium t-butoxide (70 mg) in THF at 0° C. The reaction mixture was stirred at room temperature for 15 minutes when it was quenched with saturated aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate, the organic layers washed with water, dried (MgSO4) and the solvent removed in vacuo. The residue was flash chromatographed in hexane/ethyl acetate (5:1) to yield 100 mg of an oil. NMR (200 MHz, CDCl3) δ 7.85 (d, 1H), 7.54 (t, 1H), 7.42 (t, 1H), 7.35-7.24 (m, 3H), 7.07 (d, 2H), 6.07 (d, 1H), 5.87 (d of t, 1H), 5.28 (s, 2H), 4.59 (s, 2H), 3.64 (s, 3H), 2.69 (quart., 2H), 1.46 (sext., 2H), 0.91 (t, 3H), 0.86 (s, 9H), 0.05 (s, 6H).

reactant | 5-t-Butyldimethylsilyloxymethyl-1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-4-chloroimidazole-2-carboxaldehyde | 200 mg | [Si](C)(C)(C(C)(C)C)OCC1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC)C=O)Cl | C26H31ClN2O4Si
reactant | potassium t-butoxide | 70 mg | CC(C)([O-])C.[K+]
reactant | THF | C1CCOC1 | C4H8O
catalyst | n-butyltriphenylphosphonium bromide | 0.26 g | [Br-].C(CCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-t-Butyldimethylsiloxymethyl-1-[(2'-carbomethoxybiphenyl-4-yl)-methyl]-4-chloro-2-(cis-pent-1-en-1-yl)-imidazole | 100 mg | O([Si](C)(C)C(C)(C)C)CC1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC)\C=C/CCC)Cl | C30H39ClN2O3Si
